US09260400B2
29A) 3-(2-Chloroethoxy)-N-(4-pyridylmethyl)propanamide
Title compound was prepared starting from (4-pyridyl)methanamine and 3-(2-chloroethoxy)propanoyl chloride following the procedure outlined for Example 27A. 1H NMR (CDCl3): δ 2.38-2.41 (m, 2H), 2.60-2.63 (m, 2H), 3.54-3.60 (m, 2H), 3.66-3.69 (m, 2H), 4.45 (d, 2H, J=6.1 Hz), 6.12 (br t, 1H, D2O exchanged), 7.09-7.11 (m, 2H), 8.40-8.42 (m, 2H).

reactant | (4-pyridyl)methanamine | N1=CC=C(C=C1)CN | C6H8N2
reactant | 3-(2-chloroethoxy)propanoyl chloride | ClCCOCCC(=O)Cl | C5H8Cl2O2
product | 3-(2-Chloroethoxy)-N-(4-pyridylmethyl)propanamide | ClCCOCCC(=O)NCC1=CC=NC=C1 | C11H15ClN2O2
